US07528173B2
To 4-phenylbutylphosphinic acid (357 mg, 1.8 mmol) in methylene chloride at 0° C. was added DIEA (0.66 mL, 3.8 mmol), followed by TMSCI (0.47 mL, 3.8 mmol). After 1 hour, 2-(3-(t-butoxycarbonylamino)phenyl)propenoic acid methyl ester (0.5 g, 1.8 mmol) was added and the reaction mixture was allowed to warm to ambient temperature. After 5 hours, the reaction was partitioned between methylene chloride and saturated NaHCO3 solution. The organic layer was washed with 0.1 N sulfuric acid and concentrated in vacuo. The residue was dissolved in 10 mL 3:1 THF:methanol for 18 hours. The reaction was concentrated to provide 2-(3-(t-butoxycarbonylamino)phenyl)-3-((4-phenylbutyl)(hydroxy)phosphinoyl)propanoic acid methyl ester (845 mg) as a white foam.

reactant | 4-phenylbutylphosphinic acid | 1.8 mmol, 357 mg | C1(=CC=CC=C1)CCCCP(O)=O | C10H15O2P
reactant | DIEA | 3.8 mmol, 0.66 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-(t-butoxycarbonylamino)phenyl)propenoic acid methyl ester | 1.8 mmol, 0.5 g | COC(C(=C)C1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O | C15H19NO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-(t-butoxycarbonylamino)phenyl)-3-((4-phenylbutyl)(hydroxy)phosphinoyl)propanoic acid methyl ester | 845 mg | COC(C(CP(=O)(O)CCCCC1=CC=CC=C1)C1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O | C25H34NO6P
